US06020342
9-Methoxy-5-methyl-2-(2-methylphenyl)imidazo[2,1-a]isoquinoline
To a solution of 4.9 g of 9-methoxy-5-methyl-2-(2-methylphenyl)-5,6-dihydroimidazo[2,1-a]isoquinoline in 30 ml of decalin was added 0.97 g of palladium on activated carbon (Pd 10%) and the mixture was refluxed for 6 hours. After being cooled and an addition of 200 ml of chloroform, the mixture was filtered and the filtrate was evaporated in vacuo. The resultant residue was crystallized from a mixture of hexane and ethyl acetate(6:1) to give 3.0 g of the title compound.

reactant | 9-methoxy-5-methyl-2-(2-methylphenyl)-5,6-dihydroimidazo[2,1-a]isoquinoline | 4.9 g | COC1=CC=C2CC(N3C(C2=C1)=NC(=C3)C3=C(C=CC=C3)C)C | C20H20N2O
reactant | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | decalin | 30 ml | C1CCCC2CCCCC12 | C10H18
catalyst | palladium on activated carbon | 0.97 g | [Pd] | Pd
product | 9-Methoxy-5-methyl-2-(2-methylphenyl)imidazo[2,1-a]isoquinoline | 3.0 g | COC1=CC=C2C=C(N3C(C2=C1)=NC(=C3)C3=C(C=CC=C3)C)C | C20H18N2O
